Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Lithium
 
Attending: ___.
 
Chief Complaint:
Umbilical hernia
 
Major Surgical or Invasive Procedure:
___:
Primary umbilical hernia reduction and repair with 
bio-absorbable mesh.

 
History of Present Illness:
Pt had periumbilical pain and discomfort occasionally, saw PCP 
who noticed periumbilical hernia. Was referred to Dr ___ 
___ was made for elective repair. Never had any symptoms of
obstruction: denies nausea/vomiting related to any bulge, normal
flatus/bowel movements. Never had irreducible bulge. A diagnosis
of DI was suspected for awhile and she recently formally 
received
a diagnosis of diabetes insipidus and so is being preadmitted 
for
hydration prior to the operation. 

 
Past Medical History:
fatigue, arthritis, fibromyalgia, GERD, bipolar, sinus and ear 
infections, uterine polyps, hx hypothyroidism while on lithium, 
thyroid nodule

 
Social History:
___
Family History:
sister with breast cancer, otherwise no medical problems in 
family 

 
Physical Exam:
Prior Discharge:
VS: 98.2, 79, 119/74, 18, 99% RA
GEN: Pleasant with NAD
HEENT: PERRL, EOMI, Neck supple, no JVD
CV: RRR, no m/r/g
PULM: CTAB
ABD: Umbilical incision with occlusive dressing and c/d/i
EXTR: Warm, no c/c/e
 
Pertinent Results:
___ 12:18AM BLOOD Glucose-173* UreaN-9 Creat-1.0 Na-138 
K-4.1 Cl-104 HCO3-24 AnGap-14
___ 07:30AM BLOOD Glucose-95 UreaN-9 Creat-1.0 Na-143 K-3.8 
Cl-108 HCO3-22 AnGap-17
 
Brief Hospital Course:
The patient with umbilical hernia and scheduled for elective 
surgery on ___, was admitted fot hydration secondary to newly 
diagnosed nephrogenic DI. Nephrology was called for consult and 
their recommendations were followed. On ___, the patient 
underwent primary umbilical hernia reduction with mesh, which 
went well without complication (reader referred to the Operative 
Note for details). After a brief, uneventful stay in the PACU, 
the patient arrived on the floor tolerating regular diet, on IV 
fluids, with a foley catheter, and PO Oxycodone for pain 
control. The patient was hemodynamically stable.
Post-operative pain was initially well controlled with po 
medications. Patient tolerated regular diet, IV fluid was 
discontinued, electrolytes were within normal level. The foley 
catheter was discontinued at midnight of POD# 0. The patient 
subsequently voided without problem. 
At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled. The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
quetiapine XR 40'qHS, venlafaxine ER 150', ranitidine 150'PRN, 
esomeprazole 40'PRN, fluticasone, allegra 
 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H 
2. Fexofenadine 60 mg PO BID:PRN allergies/congestion 
3. Fluticasone Propionate NASAL 2 SPRY NU BID:PRN 
congestion/allergies 
4. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*40 Tablet Refills:*0
5. QUEtiapine extended-release 400 mg PO QHS 
6. Ranitidine 150 mg PO DAILY:PRN heartburn 
7. Venlafaxine XR 150 mg PO DAILY 
8. NexIUM (esomeprazole magnesium) 40 mg oral qd 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Umbilical hernia
2. Nephrogenic diabetes insipidus 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the surgery service for hydration while 
being unable to eat or drink prior to your surgery. You then 
underwent your umbilical hernia repair as planned. Your surgery 
went well and you have done well post-operatively. You may 
return home to finish your recovery. 

Please call your doctor or nurse practitioner if you experience 
the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain is not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.
.
General Discharge Instructions:
Please resume all regular home medications.  Also, please take 
any new medications as prescribed.
Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.  Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon, who will instruct you further regarding activity 
restrictions.
Avoid driving or operating heavy machinery while taking pain 
medications.
Please follow-up with your surgeon and Primary Care Provider 
(PCP) as advised.

Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower on ___ (you may remove your 
dressing prior to this), and wash surgical incisions with a mild 
soap and warm water.  Gently pat the area dry.
*If you have steri-strips, they will fall off on their own.  
Please remove any remaining strips ___ days after surgery.

 
Followup Instructions:
___